US06809110B2
In analogy to the procedure described in example 14 b], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 4-chloromethyl-2-phenyl-thiazole (prepared from thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in the presence of cesium carbonate and potassium iodide to yield [rac]-2-ethoxy-3-[3-fluoro-4-(2-phenyl-thiazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-[3-fluoro-4-(2-phenyl-thiazol-4-ylmethoxy)-phenyl]-propionic acid as light yellow solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 4-chloromethyl-2-phenyl-thiazole | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-2-ethoxy-3-[3-fluoro-4-(2-phenyl-thiazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC=1N=C(SC1)C1=CC=CC=C1)F)OCC)=O | C23H24FNO4S
